US08067419B2
2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid (50 mg, 0.095 mmol) was dissolved in acetonitrile (1.0 ml), TBTU (37 mg, 0.115 mmol), DIPEA (37 mg, 0.29 mmol) and 1-formylpiperazine (12.23 mg, 0.105 mmol) was added and the mixture was stirred for 16 h at rt, filtered and directly purified by prep. HPLC to give 32 mg of N—[(S)-1-benzyl-2-(4-formyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-pentyl-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide. LC-MS: tR=1.17 min; [M+H]+=620.50.

reactant | 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid | 0.095 mmol, 50 mg | C(CCCC)C1=CC=C(CN([C@H](C(=O)O)CC2=CC=CC=C2)C(C=CC2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C31H32F3NO3
reactant | TBTU | 0.115 mmol, 37 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.29 mmol, 37 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-formylpiperazine | 0.105 mmol, 12.23 mg | C(=O)N1CCNCC1 | C5H10N2O
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | N—[(S)-1-benzyl-2-(4-formyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-pentyl-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide | 32 mg | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCN(CC1)C=O)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)CCCCC | C36H40F3N3O3
